.SUBCKT MAX4108 1 2 99 50 97
****************INPUT STAGE**********************
*
IOS 2 1 50N
I1 4 50 2MA
GIN 2 1 2 1 50E-9
G1 5 99 5 99 38.5E-3
G2 6 99 6 99 38.5E-3
vos 1 3 0v
*EOS 1 3 POLY(1) 98 30 0 .63
*               ^       OFFSET VOLTAGE

*****OFFSET VOLTAGE MUST BE 0V TO PERFORM SMALL-SIGNAL ANALYSIS*****
Vn 3 9 0v
*EN 3 9 POLY(1) 103 0 0 .70
Q1 5 2 401 QX
Q2 6 9 402 QX
RDEG1 401 4 208 
RDEG2 402 4 208
Dsub 50 99 DX
*C4 5 6 7PF
*
***************SECOND STAGE******************
IS 99 50 18mA
*         SETS IS ^
****OUTPUT VOLTAGE LIMITING****
V2 99 11 .5
D1 12 11 DX
D2 10 12 DX
V3 10 50 .5
****LEVEL TRANSLATION ****
EH 99 98 99 50 0.5
****GAIN, 1ST POLE****
G3 98 12 5 6 .0042
*27.1
*1ST POLE 21HZ,AVOL 1E6
R4 12 98 2.387E7
C3 98 12 1.72E-13
* 1.667e-12
*   
**************FREQUENCY SHAPING STAGES********
*
****POLE STAGE****
G5 98 15 12 98 1E-3 
R5 98 15 1E3
C5 98 15 3.3E-13
****COMMON-MODE STAGE****
G11 98 30 4 98 316E-12
G13 30 98 30 98 1E-3
D11 50 30 DX
*
*******************OUTPUT STAGE****************
F6 99 50 VA7 1
F5 99 38 VA8 1
D9 40 38 DX
D10 38 99 DX
VA7 99 40 0
****************
G12 98 32 15 98 1E-3
R15 98 32 1E3
D3 32 36 DX
D4 37 32 DX
V5 35 37 4V
V4 36 35 4V
R16 34 35 30
E1 99 33 99 32 1
VA8 33 34 0V
L 35 96 50P
R17 96 97 20
*
***** MODELS USED ******
.MODEL DX D(IS=1E-15)
.MODEL QX NPN(BF=83.3)
*BF IS SET FOR FOR INPUT BIAS
.ENDS MAX4108
